US08110687B2
Morpholine (2.00 mL, 22.9 mmol) and 7-{[2-(aminocarbonothioyl)pyridin-4-yl]-oxy}-N-(3-tert-butylphenyl)-2-naphthamide (0.155 g, 0. 34 mmol) were combined. The reaction mixture was allowed to stir at rt overnight in a sealed vial. And then heated at 60° C. for 6 h. The reaction mixture was diluted with EtOAc and poured into brine. The aqueous and organic solutions were separated and the aqueous solution was further extracted with EtOAc. The organic solutions were combined, dried over Na2SO4, and loaded onto a silica gel column. The product was collected from the column, concentrated, and redissolved in MeOH. To this solution was added 1M HCl in Et2O. The solution was concentrated to give N-(3-tert-butylphenyl)-7-({2-[imino(morpholin-4-yl)methyl]pyridin-4-yl}oxy)-2-naphthamide I-99 (21 mg). 1H NMR (400 MHz, CD3OD; 2*HCl salt) δ: 8.48 (d, 1H), 8.47 (s, 1H), 7.99-8.12 (m, 3H), 7.81 (dd, 2H), 7.58 (dd, 1H), 7.46 (dd, 1H), 7.31 (dd, 1H), 7.22 (ddd, 1H), 7.14 (d, 1H), 7.08 (d, 1H), 3.69 (dd, 4H), 3.31-3.33 (m, 4H), and 1.35 (s, 9H). LCMS: (FA) ES30 509.3, ES− 507.3.

reactant | Morpholine | 22.9 mmol, 2.00 mL | N1CCOCC1 | C4H9NO
reactant | 7-{[2-(aminocarbonothioyl)pyridin-4-yl]-oxy}-N-(3-tert-butylphenyl)-2-naphthamide | 34 mmol, 0.155 g | NC(=S)C1=NC=CC(=C1)OC1=CC=C2C=CC(=CC2=C1)C(=O)NC1=CC(=CC=C1)C(C)(C)C | C27H25N3O2S
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | N-(3-tert-butylphenyl)-7-({2-[imino(morpholin-4-yl)methyl]pyridin-4-yl}oxy)-2-naphthamide | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1=CC2=CC(=CC=C2C=C1)OC1=CC(=NC=C1)C(N1CCOCC1)=N | C31H32N4O3
